US04218559
Decahydropyrazino[2,3-b]pyrazine
To an ice-cold solution of 206 grams of 70% aqueous ethylenediamine (144 grams, 2.4 moles) was added dropwise 115 grams of a 30% aqueous solution of glyoxal (34.8 grams, 0.6 mole). When the addition was completed, the solution was stirred at room temperature for 30 minutes, then concentrated by removing approximately 75 ml of water at 150 mm Hg. The mixture was cooled in an ice bath and the precipitated solid was filtered, stirred in 100 ml of 50% ethanol-isopropanol, and again filtered. The yield of product was 50.6 grams (59%), m.p. 222°-225° C. (dec; literature m.p. 230°-232° C.).

reactant | ethylenediamine | 2.4 moles, 206 grams | C(CN)N | C2H8N2
reactant | glyoxal | 0.6 mole, 34.8 grams | C(=O)C=O | C2H2O2
product | Decahydropyrazino[2,3-b]pyrazine | N1CCNC2C1NCCN2 | C6H14N4
